US09403798B2
tert-Butyl 5-(1,3-dioxoisoindolin-2-yl)-4-(4-fluorophenyl)-5,6-dihydropyridine-1(2H)-carboxylate
To a tetrahydrofuran solution (10 mL) of tert-butyl 4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridine-1(2H)-carboxylate (1.00 g, 3.41 mmol) synthesized in Reference Synthesis Example 354, triphenylphosphine (0.894 g, 3.41 mmol), and phthalimide (0.501 g, 3.41 mmol), diisopropyl azodicarboxylate (1.9 M, toluene solution) (1.97 mL, 3.75 mmol) was added dropwise and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, the reaction solution was concentrated and the resultant residue was purified by silica gel column chromatography to obtain the title compound (1.21 g, yield 84%).

reactant | tert-butyl 4-(4-fluorophenyl)-5-hydroxy-5,6-dihydropyridine-1(2H)-carboxylate | 3.41 mmol, 1.00 g | FC1=CC=C(C=C1)C1=CCN(CC1O)C(=O)OC(C)(C)C | C16H20FNO3
reactant | triphenylphosphine | 3.41 mmol, 0.894 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 3.41 mmol, 0.501 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 3.75 mmol, 1.9 M, 1.97 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-Butyl 5-(1,3-dioxoisoindolin-2-yl)-4-(4-fluorophenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.21 g, yield 84% | O=C1N(C(C2=CC=CC=C12)=O)C1C(=CCN(C1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C24H23FN2O4
